US04471117
To a stirred mixture of 6.2 parts of 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine, 7.8 parts of 3,4,5-trimethoxybenzaldehyde and 60 parts of acetic acid are added portionwise 1.2 parts of sodium borohydride at a temperature between 18° and 20° C. Upon completion, stirring is continued for 30 minutes at room temperature. Water is added and the whole is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from ethanol, yielding 9.2 parts of 3,4-dihydro-N-(3,4,5-trimethoxyphenylmethyl)-2H-pyrimido[2,1-b]benzothiazol-7-amine; mp. 190.7° C.

reactant | 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | N=1CCCN2C1SC1=C2C=C(C=C1)N | C10H11N3S
reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4-dihydro-N-(3,4,5-trimethoxyphenylmethyl)-2H-pyrimido[2,1-b]benzothiazol-7-amine | COC=1C=C(C=C(C1OC)OC)CNC=1C=CC2=C(N3C(S2)=NCCC3)C1 | C20H23N3O3S
